US06864396B2
A mixture of 21.1 grams of 4,6-bis(4-methylbenzoyl)isophthalic acid, 350 mL of acetic acid, and 2.10 grams of 5% palladium on carbon (as a catalyst) was heated to 65° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The resulting mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give 4,6-bis(4-methylbenzyl)isophthalic acid.

reactant | 4,6-bis(4-methylbenzoyl)isophthalic acid | 21.1 grams | CC1=CC=C(C(=O)C2=C(C=C(C(=O)O)C(=C2)C(C2=CC=C(C=C2)C)=O)C(=O)O)C=C1 | C24H18O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.10 grams | [Pd] | Pd
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
product | 4,6-bis(4-methylbenzyl)isophthalic acid | CC1=CC=C(CC2=C(C=C(C(=O)O)C(=C2)CC2=CC=C(C=C2)C)C(=O)O)C=C1 | C24H22O4
